** sch_path: /home/harry/Git/CMOS_INA_GF180MCU/xschem/tb/tb_aux_opamp.sch
**.subckt tb_aux_opamp
V1 PSUP GND {VDD}
V2 net4 GND {VDD/2}
V3 net3 GND {VDD/2}
V4 net2 GND {VDD/2}
V5 net1 net2 AC
V6 net5 GND {VDD/2}
V7 PSUP_PSRR PSUP AC
x1 PSUP Vo1 net4 Vo1 net6 GND net7 aux_amp
x2 PSUP Vo2 net3 net3 net8 GND net9 aux_amp
x3 PSUP Vo3 net1 net2 net10 GND net11 aux_amp
x4 PSUP_PSRR Vo4 net5 net5 net12 GND net13 aux_amp
* noconn #net7
* noconn #net9
* noconn #net11
* noconn #net13
* noconn #net6
* noconn #net8
* noconn #net10
* noconn #net12
**** begin user architecture code

.include /home/harry/open-pdks/gf180mcu/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /home/harry/open-pdks/gf180mcu/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /home/harry/open-pdks/gf180mcu/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /home/harry/open-pdks/gf180mcu/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /home/harry/open-pdks/gf180mcu/gf180mcuD/libs.tech/ngspice/sm141064.ngspice diode_typical
* .lib /home/harry/open-pdks/gf180mcu/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical



.param VDD=5
echo 1
.control
echo 1
save all
echo 1
write /home/harry/Git/CMOS_INA_GF180MCU/xschem/results tb_aux_opamp.raw
echo 1
.endc


**** end user architecture code
**.ends

* expanding   symbol:  lib/aux_amp.sym # of pins=7
** sym_path: /home/harry/Git/CMOS_INA_GF180MCU/xschem/lib/aux_amp.sym
** sch_path: /home/harry/Git/CMOS_INA_GF180MCU/xschem/lib/aux_amp.sch
.subckt aux_amp PSUP Vo V+ V- N_EN NSUP EN
*.ipin PSUP
*.ipin NSUP
*.ipin N_EN
*.ipin EN
*.ipin V+
*.ipin V-
*.opin Vo
XM1 Vo V- net2 NSUP nfet_06v0 L=0.5u W=2u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM2 net1 V+ net2 NSUP nfet_06v0 L=0.5u W=2u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM5 net1 net1 PSUP PSUP pfet_06v0 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 Vo net1 PSUP PSUP pfet_06v0 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
I0 net2 NSUP 5u
* noconn N_EN
* noconn EN
.ends

.GLOBAL GND
.end
